US08022205B2
Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (70 mg) and 3-bromo-4-methyl-N-(2-pyridin-3-yl-ethyl)-benzamide (62 mg) instead of 4-chloropicolinic acid t-butylamide, in the same manner as Example 1-D-07, a crude product of 3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-4-methyl-N-(2-pyridin-3-yl-ethyl)-benzamide was obtained, and then the PMB groups were removed according to the above Deprotection method 3, to obtain the desired compound (D-304) as a pale brown powder (22 mg, 32%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 70 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 3-bromo-4-methyl-N-(2-pyridin-3-yl-ethyl)-benzamide | 62 mg | BrC=1C=C(C(=O)NCCC=2C=NC=CC2)C=CC1C | C15H15BrN2O
product | 3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-4-methyl-N-(2-pyridin-3-yl-ethyl)-benzamide | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C=3C=C(C(=O)NCCC=2C=NC=CC2)C=CC3C)CC3=CC=C(C=C3)OC)C=C1 | C45H47N9O4
